US04511392
Methyl (4,6-dimethoxypyrimidin-2-yl)carbamate
2-Amino-4,6-dimethoxypyrimidine (56 g) was added portionwise to 50% sodium hydride (42.8 g) in 1000 ml of dry tetrahydrofuran. After stirring for 0.5 hour, dimethylcarbonate (58.5 g) was added dropwise with cooling. The mixture was stirred under nitrogen for about 16 hours at ambient temperature. Concentrated HCl (80 ml) was added slowly as external cooling was used to maintain a pot temperature of about 25° C. Saturated aqueous sodium chloride (80 ml) was then added. The solvents were decanted from the precipitated solids and dried over sodium sulfate. Filtering and evaporating the solvents afforded the crude material which was recrystallized from hexane to yield 54 g of the title compound, m.p. 81°-83° C. The IR spectrum showed characteristic absorption bands at 3400 and 1760 cm-1.

reactant | 2-Amino-4,6-dimethoxypyrimidine | 56 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
reactant | sodium hydride | 42.8 g | [H-].[Na+]
reactant | dimethylcarbonate | 58.5 g | COC(OC)=O | C3H6O3
reactant | HCl | 80 ml | Cl | ClH
reactant | sodium chloride | 80 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | Methyl (4,6-dimethoxypyrimidin-2-yl)carbamate | 54 g | COC1=NC(=NC(=C1)OC)NC(OC)=O | C8H11N3O4
